US08404694B2
A solution of 1-amino-1H-pyrrole-2-carbonitrile (100 mg, 0.934 mmol) and potassium hydroxide (1.26 g, 22.5 mmol) in water (3 mL) was stirred at RT for 6 hours. The resulting mixture was then cooled to 0° C. and filtered. The collected solid was washed with cold water until the washings were pH neutral and purified by silica gel chromatography using 0-100% of 90/10/1 CH2Cl2/MeOH/NH4OH in CH2Cl2 to afford 1-amino-1H-pyrrole-2-carboxamide.

reactant | 1-amino-1H-pyrrole-2-carbonitrile | 0.934 mmol, 100 mg | NN1C(=CC=C1)C#N | C5H5N3
reactant | potassium hydroxide | 22.5 mmol, 1.26 g | [OH-].[K+]
solvent | water | 3 mL | O | H2O
product | 1-amino-1H-pyrrole-2-carboxamide | NN1C(=CC=C1)C(=O)N | C5H7N3O
